US04959361
2-[3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-2-propynyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared by reacting 4-(2-chlorophenyl)2-iodo-9-methyl-6H-thieno[3,2-f][1,2,4]triazol[4,3-a][1,4]diazepine with 2-(2-propynyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide [ref. R. Granger and J. Giroux, French patent No. 1,273,867 February 1962] as described in Example 37. It was isolated by chromatography and crystallized from ethyl acetate to give colorless crystals with m.p. 232°-234° C.

reactant | 4-(2-chlorophenyl)2-iodo-9-methyl-6H-thieno[3,2-f][1,2,4]triazol[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 2-(2-propynyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | C(C#C)N1S(C2=C(C1=O)C=CC=C2)(=O)=O | C10H7NO3S
product | 2-[3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]-2-propynyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCN3S(C1=C(C3=O)C=CC=C1)(=O)=O)C(=NN2)C | C25H16ClN5O3S2
